US05677297
20.5 g of tert-butyl dimethylphosphonoacetate were reacted with 25 g of 4-fluorophenoxyethyl bromide by the method described in Example 5 A). The reaction mixture was worked up as described in Example 5 A). 20.4 g of tert-butyl 4-(4-fluorophenoxy)-2-(dimethylphosphono)-n-butyrate were obtained.

reactant | tert-butyl dimethylphosphonoacetate | 20.5 g | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | 4-fluorophenoxyethyl bromide | 25 g | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
product | tert-butyl 4-(4-fluorophenoxy)-2-(dimethylphosphono)-n-butyrate | 20.4 g | FC1=CC=C(OCCC(C(=O)OC(C)(C)C)P(=O)(OC)OC)C=C1 | C16H24FO6P
